US07122580B2
N-[5-(3-Chloro-phenyl)-pyridin-2-yl]-2-[4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetamide
To 120 mg (0.1 mmol) of above resin-bound bound N-(5-bromo-pyridin-2-yl)-2-[4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetamide in 2.0 mL of DME were added 48.0 mg (0.3 mmol) of 3-chlorophenylboronic acid, 30 mg (0.03 mmol) of Pd(PPh3)4, and 0.3 mL (0.6 mmol) of 2N Na2CO3 solution. The mixture was heated to 80° C. for 12 h. The resin was washed with H2O, DMF, MeOH, DCM three times of each and cleaved with TMSBr/TFA/DCM (1:1:5) at rt for 4 h. The residue obtained after removing the solvent was purified by chromatography (silica gel, DCM) to give 20 mg (40%) of the title compound.

reactant | N-(5-bromo-pyridin-2-yl)-2-[4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetamide | BrC=1C=CC(=NC1)NC(CC1=CC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C19H14BrN3O5
reactant | 3-chlorophenylboronic acid | 0.3 mmol, 48.0 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 0.6 mmol, 2N, 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2.0 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(3-Chloro-phenyl)-pyridin-2-yl]-2-[4-(3-hydroxy-4-nitro-phenoxy)-phenyl]-acetamide | 20 mg, 40% | ClC=1C=C(C=CC1)C=1C=CC(=NC1)NC(CC1=CC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C25H18ClN3O5
